US04751223
1,2,6,7-Tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine6-acetonitrile
n-Butyllithium (10 ml of a 2.5M solution) and tetrahydrofuran (THF, 10 ml) were placed in a 250 ml 3-neck flask under nitrogen and chilled to -60° C. (dry ice/acetone). Acetonitrile (1 g) in tetrahydrofuran (10 ml) was added in one portion. A precipitate formed in a short time. Thirty minutes thereafter, a solution of 1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine (4.5 g) in tetrahydrofuran (20 ml) was added. The cold bath was then removed and the reaction mixture was stirred for 2 hours. The mixture was diluted with ethyl acetate (350 ml) and poured into saturated ammonium chloride solution (500 ml). The organic phase was separated and washed with brine (50%, 500 ml). The insolubles were collected by filtration. The ethyl acetate solution was dried over anhydrous sodium sulfate and concentrated to a solid. The solids were combined and purified by flash chromatography (silica, 80 g, eluted with dichloromethane) to afford 4.2 g of product. Recrystallization from a large volume of ethanol/isopropanol gave 2.48 g of crystalline product, m.p. 218°-220° C.

reactant | n-Butyllithium | C(CCC)[Li]
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | Acetonitrile | 1 g | C(C)#N | C2H3N
reactant | 1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | 4.5 g | C1CC2=CC=CC=3C=NC4=C(N1C32)C=CC=C4 | C15H12N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1,2,6,7-Tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine6-acetonitrile | 4.2 g | C1CC2=CC=CC=3C(NC4=C(N1C32)C=CC=C4)CC#N | C17H15N3
